US05049671
(±)-cis-4-(2-Amino-6-hexoxy-9H-purin-9-yl)-2-cyclopentene-1-methanol
To a solution of (±)-cis-4-(2-amino-6-chloro-9H-purin-9-yl)-2-cyclopentene-1-methanol (0.549 g, 2 mmol) in 1-hexanol (10 ml) at 110° C. was added NaH (60% oil dispersion, 0.16 g, 4mmol). The mixture was stirred at 110° C. for 20 minutes, then cooled to room temperature. 1 N HCl was added to adjust the pH to 7.0, and the solvent was removed by evaporation. The residual oil was chromatographed on silica gel. The title compound was eluted with 7% methanolchloroform; white powder after crystallization from acetonitrilemethanol (0.397 g, 60%); MP 90-92° C.;

reactant | (±)-cis-4-(2-amino-6-chloro-9H-purin-9-yl)-2-cyclopentene-1-methanol | 2 mmol, 0.549 g | NC1=NC(=C2N=CN(C2=N1)[C@H]1C=C[C@H](C1)CO)Cl | C11H12ClN5O
reactant | NaH | 4mmol, 0.16 g | [H-].[Na+]
reactant | HCl | 1 N | Cl | ClH
solvent | 1-hexanol | 10 ml | C(CCCCC)O | C6H14O
product | (±)-cis-4-(2-Amino-6-hexoxy-9H-purin-9-yl)-2-cyclopentene-1-methanol | NC1=NC(=C2N=CN(C2=N1)[C@H]1C=C[C@H](C1)CO)OCCCCCC | C17H25N5O2
